US06689909B1
4-[N,N-Dimethylcarbamoyl]thiophenol
Di-Phosphorous pentoxide (923 mg) was added to a solution of 4-mercaptobenzoic acid (2000 mg) in DMF (10 ml). The mixture was stirred for sixteen hours at 150° C. under argon. The mixture was allowed to cool then EtOAc (150 ml) was added. The solution was washed with water (100 ml), brine (50 ml) and dried. The volatile material was removed by evaporation and the residue was purified by chromatography on silica gel, eluted with 2.5% MeOH in DCM to give two samples. One sample containing a mixture of thiol and disulphide was purified by chromatography on silica gel, eluted with 1-2.5% MeOH in DCM to give the title compound (760 mg) as a solid. NMR: 2.94 (s, 6H), 5.63 (s, 1H), 7.30 (m, 4H); m/z 180.

reactant | 4-mercaptobenzoic acid | 2000 mg | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[N,N-Dimethylcarbamoyl]thiophenol | 760 mg | CN(C(=O)C1=CC=C(C=C1)S)C | C9H11NOS
